US07687491B2
(18b) (5-{5-[4-(2,3-Difluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methanol
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 10 (10f) using 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-N′-hydroxythiophene-2-carboximidamide (0.16 g, 0.50 mmol) that was obtained in Example 10 (10d), 4-(2,3-difluorophenoxy)benzoic acid (0.14 g, 0.55 mmol) that was obtained in Example 18 (18a), N,N′-dicyclohexylcarbodiimide (0.11 g, 0.55 mmol), and 1.0M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.75 mL, 0.75 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (2:8 to 3:7) as the eluent to afford the title compound (0.18 g) in a yield of 88% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-N′-hydroxythiophene-2-carboximidamide | 0.50 mmol, 0.16 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C(N)=NO)CC | C14H26N2O2SSi
reactant | 4-(2,3-difluorophenoxy)benzoic acid | 0.55 mmol, 0.14 g | FC1=C(OC2=CC=C(C(=O)O)C=C2)C=CC=C1F | C13H8F2O3
reactant | N,N′-dicyclohexylcarbodiimide | 0.55 mmol, 0.11 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.75 mmol, 0.75 mL | O1CCCC1 | C4H8O
product | (5-{5-[4-(2,3-Difluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methanol | FC1=C(OC2=CC=C(C=C2)C2=NC(=NO2)C2=C(C=C(S2)CO)CC)C=CC=C1F | C21H16F2N2O3S
